US08623889B2
Step 1: 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethane-1,1-diol
To a solution of 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoro-ethanol (345 mg; 1.2775 mmol) in dichloromethane (10 mL; 156.0 mmol) was added Dess-Martin periodinane (0.7313 g; 1.672 mmol). The reaction mixture was stirred at room temperature for 5 hours. 20 mL of a 10% aqueous solution of sodium thiosulfate was added and the reaction stirred for an additional 10 minutes. The reaction mixture was washed with 2 M aqueous sodium carbonate, dried over MgSO4, filtered, and concentrated. The crude product was carried forward without purification. LCMS (ESI): M+H=286.0; 1H NMR (400 MHz, DMSO) δ 8.70 (s, 1H), 7.72 (s, 1H), 7.59 (s, 2H), 2.43 (s, 3H).

reactant | 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoro-ethanol | 1.2775 mmol, 345 mg | BrC=1C(=CC(=NC1)C(C(F)(F)F)O)C | C8H7BrF3NO
reactant | dichloromethane | 156.0 mmol, 10 mL | ClCCl | CH2Cl2
reactant | Dess-Martin periodinane | 1.672 mmol, 0.7313 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 1-(5-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethane-1,1-diol | BrC=1C(=CC(=NC1)C(C(F)(F)F)(O)O)C | C8H7BrF3NO2
